US07713996B2
4-Methyl-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester was reacted with 5-chloro-2-methoxybenzenesulfonyl chloride in analogy to example 34, step 2, yielding 1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester. Pink solid, MS (ISP): m/e 396.1 (M+H).

reactant | 4-Methyl-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC(=C2CCNC2=C1)C | C11H13NO2
reactant | 5-chloro-2-methoxybenzenesulfonyl chloride | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC(=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)C | C18H18ClNO5S
